### PR TITLE
Prove `sigmaNegOneHalfPull`

### PR DESCRIPTION
**Pull request by FLDutchmann**
Also golf `DiffVertRect_eq_UpperLowerUs`

### CODE REVIEW

File: PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean [hunk 1]
```diff
@@ -156,37 +163,12 @@ lemma DiffVertRect_eq_UpperLowerUs {f : ℂ → ℂ} {σ σ' T : ℝ}
...
-  simp only [sub_im, ofReal_im, mul_im, I_re, I_im, ofReal_re, zero_sub, sub_re, mul_re,  add_re,
-    add_im, ← integral_comp_neg_Ioi, ← integral_Ici_eq_integral_Ioi, ← integral_Ici_eq_integral_Ioi,
-    ofReal_neg, mul_neg, neg_mul, add_left_inj]
-  ring_nf
+  rw[verticalIntegral_split_three (-T) T f_int_σ, verticalIntegral_split_three (-T) T f_int_σ',
+    RectangleIntegral, UpperUIntegral, LowerUIntegral]
+  norm_num
+  have {a b c d e g h i : ℂ} :
+    a + b + c - (d + e + g) - (h - i + b - e) = i + c - g - (h - a + d) := by ring
+  convert this using 1
```
Comment (llllvvuu) [inline PrimeNumberTheoremAnd/ResidueCalcOnRectangles.lean:171]: 👏

**Review by AlexKontorovich — APPROVED** [review]
Great!!
